US04435208
79.2 g of 5-(2,6-dichloro-4-trifluoromethyl-phenoxy)-2-nitro-benzoic acid and 0.5 ml of dimethylformamide were introduced into 150 ml of 1,2-dichloro-ethane. 28.6 g of thionyl chloride were added dropwise at 60° to 65° C. and the mixture was heated under reflux for 1 hour. The solution was clarified with active charcoal and filtered through kieselguhr. The mother liquor was concentrated and the residue was recrystallized from cyclohexane. 65.1 g (79% of theory) of 5-(2,6-dichloro-4-trifluoromethyl-phenoxy)-2-nitro-benzoic acid chloride, of melting point 95° C., were obtained.

reactant | 5-(2,6-dichloro-4-trifluoromethyl-phenoxy)-2-nitro-benzoic acid | 79.2 g | ClC1=C(OC=2C=CC(=C(C(=O)O)C2)[N+](=O)[O-])C(=CC(=C1)C(F)(F)F)Cl | C14H6Cl2F3NO5
reactant | dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
reactant | thionyl chloride | 28.6 g | S(=O)(Cl)Cl | Cl2OS
reactant | charcoal | C | CH4
solvent | 1,2-dichloro-ethane | 150 ml | ClCCCl | C2H4Cl2
product | 5-(2,6-dichloro-4-trifluoromethyl-phenoxy)-2-nitro-benzoic acid chloride | 65.1 g, 79% | ClC1=C(OC=2C=CC(=C(C(=O)Cl)C2)[N+](=O)[O-])C(=CC(=C1)C(F)(F)F)Cl | C14H5Cl3F3NO4
